US08541448B2
Intermediate 40.3: 1-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)-3-(3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropyl)urea
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoic acid (200 mg, 0.47 mmol, 1.00 equiv) in dichloromethane (20 mL), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (136 mg, 0.71 mmol, 1.50 equiv) and 4-dimethylaminopyridine (115 mg, 0.94 mmol, 1.99 equiv). This was followed by the addition of a solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (102 mg, 0.71 mmol, 1.49 equiv) in dichloromethane (2 mL) dropwise with stirring at 0° C. The resulting solution was stirred for 3 h at room temperature. The resulting mixture was washed with KHSO4 (2×10 mL). The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 240 mg (92%) of 1-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)-3-(3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropyl)urea as a yellow solid.

reactant | 3-(3-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)ureido)propanoic acid | 0.47 mmol, 200 mg, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(NCCC(=O)O)=O | C20H21Cl2N3O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.71 mmol, 136 mg, 1.50 equiv | Cl.CN(CCCN=C=NCC)C
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 0.71 mmol, 102 mg, 1.49 equiv | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.94 mmol, 115 mg, 1.99 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)-3-(3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropyl)urea | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(=O)NCCC(=O)C1C(OC(OC1=O)(C)C)=O | C26H27Cl2N3O6
